US08314202B2
Synthesis of 4,4′-bishydroxydeoxybenzoin (BHDB).
4,4′-Bishydroxydeoxybenzoin (BHDB) was prepared by demethylation of desoxyanisoin, according to the literature. (See, Ellzey et al. Macromolecules 2006; 39: 3553-3558; Ranganathan et al. Macromolecules 2006; 39: 5974-5975.) Desoxyanisoin (50 g, 195.1 mmol) and pyridine hydrochloride (90.2 g, 780.5 mmol) were added to a round-bottom flask equipped with a condenser. The mixture was refluxed for 5 h at 200° C., cooled to room temperature, and poured into water. The precipitate was filtered and recrystallized from acetic acid to give 38 g (85% yield) of the desired product. 1H-NMR (DMSO-d6, ppm): 10.35 (s, 1H, HO—Ar—CO), 9.28 (s, 1H, HO—Ar—CH2), 7.91 (d, 2H, Ar—H), 7.05 (d, 2H, Ar—H), 6.84 (d, 2H, Ar—H), 6.68 (d, 2H, Ar—H), 4.09 (s, 2H, Ar—CO—CH2—Ar)

reactant | desoxyanisoin | C1(=CC=C(OC)C=C1)C(=O)CC1=CC=C(OC)C=C1 | C16H16O3
reactant | Desoxyanisoin | 195.1 mmol, 50 g | C1(=CC=C(OC)C=C1)C(=O)CC1=CC=C(OC)C=C1 | C16H16O3
reactant | pyridine hydrochloride | 780.5 mmol, 90.2 g | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | 4,4′-bishydroxydeoxybenzoin | 38 g, 85% yield | OC1=CC=C(C=C1)C(=O)CC1=CC=C(C=C1)O | C14H12O3
